US07625888B2
Step E: tert-Butyl 2-(trifluoromethyl)-5,6-dihydro[1,2,4]triazolo[1,5-a]pyrazine-7(8H)-carboxylate
The title compound was prepared from 2-(trifluoromethyl)-5,6,7,8-tetrahydro[1,2,4]triazolo[1,5-a]pyrazine and di-tert-butyl dicarbonate by a procedure analogous to that used for Intermediate 5, Step D. LC/MS 293 (M+1).

reactant | 2-(trifluoromethyl)-5,6,7,8-tetrahydro[1,2,4]triazolo[1,5-a]pyrazine | FC(C1=NN2C(CNCC2)=N1)(F)F | C6H7F3N4
reactant | di-tert-butyl dicarbonate | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
product | tert-Butyl 2-(trifluoromethyl)-5,6-dihydro[1,2,4]triazolo[1,5-a]pyrazine-7(8H)-carboxylate | FC(C1=NN2C(CN(CC2)C(=O)OC(C)(C)C)=N1)(F)F | C11H15F3N4O2
